US05318966
A solution of 2.00 g (0.005 mol) of rac-cis-N-[4-(1,2,3a,4,5,9b-hexahydro-6-methoxy-3H-benzo[e]indol-3-yl)butyl]phthalimide in 100 ml of methylene chloride was treated dropwise with a solution of 2.4 ml (0.025 mol) of boron tribromide in 100 ml of methylene chloride, whereupon the mixture was stirred at room temperature for 1.5 hours. 32 ml (0.065 mol) of 2N sodium hydroxide solution were added dropwise while cooling with an ice bath. The mixture was poured into water, whereupon an aqueous sodium hydrogen carbonate solution was added until a pH of 8 had been reached. The mixture was extracted with methylene chloride, the extracts were dried over sodium sulphate and the solvent was distilled off in a vacuum. Chromatography over silica gel with methylene chloride/methanol 20:1 yielded an oil which was dissolved in ethanol and treated with ethanolic HCl. Distillation of the solvent and recrystallization from methanol gave 0.3 g (14%) of rac-N-[4-(cis-1,2,3a,4,5,9b-hexahydro-6-hydroxy-3H-benzo[e]indol-3-yl)butyl]phthalimide hydrochloride as white crystals with m.p. 258°-260° (dec.).

reactant | rac-cis-N-[4-(1,2,3a,4,5,9b-hexahydro-6-methoxy-3H-benzo[e]indol-3-yl)butyl]phthalimide | 0.005 mol, 2.00 g | COC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCCCN2C(C=1C(C2=O)=CC=CC1)=O | C25H28N2O3
reactant | boron tribromide | 0.025 mol, 2.4 ml | B(Br)(Br)Br | BBr3
reactant | sodium hydroxide | 0.065 mol, 2N, 32 ml | [OH-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | HCl | Cl | ClH
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | rac-N-[4-(cis-1,2,3a,4,5,9b-hexahydro-6-hydroxy-3H-benzo[e]indol-3-yl)butyl]phthalimide hydrochloride | 0.3 g, 14% | Cl.OC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCCCN2C(C=1C(C2=O)=CC=CC1)=O | InChI=1S/C24H26N2O3.ClH/c27-22-9-5-8-16-17-12-15-25(21(17)11-10-18(16)22)13-3-4-14-26-23(28)19-6-1-2-7-20(19)24(26)29;/h1-2,5-9,17,21,27H,3-4,10-15H2;1H/t17-,21+;/m1./s1
